US05106871
In 5 ml of ethanol were dissolved 0.48 g of 2'-hydroxy-4'-methoxy-3'-(3-methyl-2-butenyl)acetophenone obtained in production Example 9 and 0.35 ml of p-anisaldehyde. The solution was cooled to 0° C. and 7.5 ml of a saturated ethanol solution of potassium hydroxide was added to the solution, and the mixture was stirred at 0° C for 30 minutes and at room temperature for 4 days. After the reaction, 3N hydrochloric acid was added to the reaction liquid under cooling to gradually make the liquid acidic, and the formed precipitate was recovered by filtration and recrystallized from methanol to obtain 0.47 g (yield=64.7%) of 2'-hydroxy-4,4'-dimethoxy-3'-(3-methyl-2-butenyl)chalcone in the form of a yellow needle.

reactant | 2'-hydroxy-4'-methoxy-3'-(3-methyl-2-butenyl)acetophenone | 0.48 g | OC1=C(C=CC(=C1CC=C(C)C)OC)C(C)=O | C14H18O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | p-anisaldehyde | 0.35 ml | C(C1=CC=C(C=C1)OC)=O | C8H8O2
